US07960038B2
First, with ethanol as a solvent, 5.31 g of 4,4′-difluorobenzil (by Tokyo Chemical Industry Co., Ltd.) and 1.60 g of 1,2-diaminopropane (by Kanto Chemical Co., Inc.) are mixed. Subsequently, the mixed solution is refluxed for three hours. Then, after the refluxed solution is condensed by using an evaporator and treated with ethanol and then recrystallized, 2,3-bis(4-fluorophenyl)-5-methyl-5,6-dihydropyrazine is obtained (light yellow powder, yield: 86%).

reactant | 4,4′-difluorobenzil | 5.31 g | FC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)F | C14H8F2O2
reactant | 1,2-diaminopropane | 1.60 g | NCC(C)N | C3H10N2
solvent | ethanol | C(C)O | C2H6O
product | 2,3-bis(4-fluorophenyl)-5-methyl-5,6-dihydropyrazine | yield: 86% | FC1=CC=C(C=C1)C1=NCC(N=C1C1=CC=C(C=C1)F)C | C17H14F2N2
